US09278938B2
To a mixture of toluene (100 mL), THF (20 mL) and 1 mol/L hydrochloric acid (100 mL) was added 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (10.0 g, 17.6 mmol). The reaction mixture was stirred vigorously at 60° C. for 2 hr. The reaction mixture was allowed to cool to room temperature. The aqueous layer was separated, and the obtained aqueous layer was washed twice with methyl tert-butyl ether (100 mL and 50 mL). To the obtained aqueous layer was added methanol (10 mL), and then carbonate (10.6 g) and water (10 mL) were added thereto. The obtained slurry was stirred overnight at room temperature. The obtained crystals were collected by filtration, and washed with 10% aqueous methanol. The obtained wet crystals were dried under reduced pressure to give crude crystals (5.56 g). To a mixture of methanol (30 mL) and water (3 mL) were added the crude crystals (4 g). After stirring at 50° C. for 1 hr, water (50 mL) was added to the slurry at 50° C. over 1 hr. The slurry was stirred at 50° C. for 1 hr, and then allowed to cool to room temperature. After stirring for 3 hr at room temperature, the crystals were collected by filtration and washed with water. The obtained wet crystals were dried under reduced pressure to give 6-[(1S)-1,3-dihydroxy-1-(1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (3.69 g, 11.3 mmol). yield 89%.

reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1 mol/L, 100 mL | Cl | ClH
reactant | 6-[(1S)-1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 17.6 mmol, 10.0 g | O[C@](CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C37H33N3O3
solvent | water | 50 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 6-[(1S)-1,3-dihydroxy-1-(1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 11.3 mmol, 3.69 g, yield 89% | O[C@](CCO)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C18H19N3O3
